.include TSMC_180nm.txt
.include gates.cir
.param LAMBDA=0.09u
.param width_P=20*LAMBDA
.param width_N=10*LAMBDA
.global gnd vdd

Vdd vdd gnd 1.8
V_clk clk gnd pulse 1.8 0 5ns 100ps 100ps 20ns 40ns
Va0 da0 gnd 1.8
Va1 da1 gnd 1.8
Va2 da2 gnd 0
Va3 da3 gnd 1.8
Va4 da4 gnd 1.8
Vb0 db0 gnd 0
Vb1 db1 gnd 1.8
Vb2 db2 gnd 1.8
Vb3 db3 gnd 0
Vb4 db4 gnd 1.8


//input flops
xd1 da0 clk a0 vdd gnd DFF
xd2 da1 clk a1 vdd gnd DFF
xd3 da2 clk a2 vdd gnd DFF
xd4 da3 clk a3 vdd gnd DFF
xd5 da4 clk a4 vdd gnd DFF
xd6 db0 clk b0 vdd gnd DFF
xd7 db1 clk b1 vdd gnd DFF
xd8 db2 clk b2 vdd gnd DFF
xd9 db3 clk b3 vdd gnd DFF
xd10 db4 clk b4 vdd gnd DFF


//gi's for carry (nand is enough)
XNAND0 a0 b0 g0_comp vdd gnd NAND
XNAND1 a1 b1 g1_comp vdd gnd NAND
XNAND2 a2 b2 g2_comp vdd gnd NAND
XNAND3 a3 b3 g3_comp vdd gnd NAND
XNAND4 a4 b4 g4_comp vdd gnd NAND

//pi's for sum
xp0 a0 b0  gnd vdd P0_sum XOR
xp1 a1 b1  gnd vdd P1_sum XOR
xp2 a2 b2  gnd vdd P2_sum XOR
xp3 a3 b3  gnd vdd P3_sum XOR
xp4 a4 b4  gnd vdd P4_sum XOR

//PROPOGATE USING NOR LOGIC (for carry)
XNOR0  p0_comp a0 b0 gnd vdd NOR
XNOR1  p1_comp a1 b1 gnd vdd NOR
XNOR2  p2_comp a2 b2 gnd vdd NOR
XNOR3  p3_comp a3 b3 gnd vdd NOR
XNOR4  p4_comp a4 b4 gnd vdd NOR


// carry 1
xi1 g0_comp C1 vdd gnd inverter

// carry 2
XOR0 g0_comp p1_comp gnd vdd out1 OR
XNAND5 g1_comp out1 C2 vdd gnd NAND

//carry 3
XNOR5 out2 p1_comp p2_comp gnd vdd NOR
XAND0 C1 out2 out3 vdd gnd AND
XOR1 p2_comp g1_comp gnd vdd out4 OR
XNAND6 out4 g2_comp out5 vdd gnd NAND
XOR2 out5 out3 gnd vdd C3 OR

//carry 4
XNOR6 out6 p2_comp p3_comp gnd vdd NOR
XAND1 C2 out6 out7 vdd gnd AND
XOR3 p3_comp g2_comp gnd vdd out8 OR
XNAND7 out8 g3_comp out9 vdd gnd NAND
XOR4 out9 out7 gnd vdd C4 OR

//carry 5
XNOR7 out10 p3_comp p4_comp gnd vdd NOR
XAND2 C3 out10 out11 vdd gnd AND
XOR5 p4_comp g3_comp gnd vdd out12 OR
XNAND8 out12 g4_comp out13 vdd gnd NAND
XOR6 out11 out13 gnd vdd C5 OR

//sum
XXOR1 P1_sum C1 gnd vdd S1 XOR
XXOR2 P2_sum C2 gnd vdd S2 XOR
XXOR3 P3_sum C3 gnd vdd S3 XOR
XXOR4 P4_sum C4 gnd vdd S4 XOR

//output flops
xd11 P0_sum clk S0_out vdd gnd DFF
xd12 S1 clk S1_out vdd gnd DFF
xd13 S2 clk S2_out vdd gnd DFF
xd14 S3 clk S3_out vdd gnd DFF
xd15 S4 clk S4_out vdd gnd DFF
xd16 C5 clk C5_out vdd gnd DFF


.measure tran td TRIG V(a0) VAL=0.9 RISE=1 TARG V(S4) VAL=0.9 RISE=1

.tran 100p 140ns
.control
run
set curplottitle='A.Pranav 2024102038'
set color0 = white
set color1=black
set linewidth=10

plot v(S4) v(a0)+2 v(clk)+4
.endc