
.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_P=20*LAMBDA
.param width_N=10*LAMBDA
.global gnd vdd
Vdd vdd gnd 1.8

Va a gnd pulse 0 1.8 0ns 100ps 100ps 20ns 40ns
Vb b gnd pulse 0 1.8 0ns 100ps 100ps 40ns 80ns




* SPICE3 file created from or.ext - technology: scmos

.option scale=90n

M1000 a_n139_75# a a_n148_75# w_n154_69# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1001 out a_n148_75# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1002 a_n148_75# a gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1003 vdd b a_n139_75# w_n154_69# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1004 gnd b a_n148_75# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1005 out a_n148_75# vdd w_n154_69# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
C0 b a_n148_75# 0.00808f
C1 w_n154_69# vdd 0.01655f
C2 w_n154_69# out 0.00792f
C3 b vdd 0.06953f
C4 a_n148_75# vdd 0.00184f
C5 a gnd 0.00405f
C6 a_n148_75# out 0.04333f
C7 b gnd 0.00477f
C8 a_n148_75# gnd 0.15676f
C9 w_n154_69# a 0.02866f
C10 w_n154_69# b 0.02866f
C11 w_n154_69# a_n148_75# 0.03379f
C12 a a_n148_75# 0.00986f
C13 gnd 0 0.21974f 
C14 out 0 0.05528f 
C15 vdd 0 0.28429f 
C16 a_n148_75# 0 0.41891f 
C17 b 0 0.24407f 
C18 a 0 0.22844f 
C19 w_n154_69# 0 4.17228f 


.tran 10p 200n
.control
run
set curplottitle = 'A.Pranav_2024102038'
set color0 = white
set color1=black
set linewidth=10
plot v(out) v(b)+2 v(a)+4
.endc