.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_P=20*LAMBDA
.param width_N=10*LAMBDA
.global gnd vdd
Vdd vdd gnd 1.8
Vin in gnd pulse 0 1.8 5ns 100ps 100ps 20ns 40ns


* SPICE3 file created from inverter.ext - technology: scmos

.option scale=90n

M1000 out in gnd Gnd CMOSN w=10 l=2
+  ad=80p pd=36u as=60p ps=32u
M1001 out in vdd w_n15_n2# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
C0 out in 0.04365f
C1 w_n15_n2# out 0.00792f
C2 in gnd 0.02167f
C3 in vdd 0.00182f
C4 w_n15_n2# in 0.02467f
C5 w_n15_n2# vdd 0.00602f
C6 gnd 0 0.03173f 
C7 out 0 0.06316f 
C8 vdd 0 0.06602f 
C9 in 0 0.18951f 
C10 w_n15_n2# 0 1.15707f

.tran 10p 200n

.control
run
set curplottitle = 'A.Pranav_2024102038'
set color0 = white
set color1=black
set linewidth=10
plot v(out) v(in)+2
.endc
